US08980899B2
Synthesis of AD68: N-(4-(4-amino-1-((R)-tetrahydrofuran-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)-3-(trifluoromethyl)benzamide
A solution of 3-(4-aminophenyl)-1-((R)-tetrahydrofuran-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.075 g, 0.25 mmol) in CH2Cl2 (10 mL) was cooled in an ice-water bath. To this, 3-(trifluoromethyl)benzoyl chloride (0.035 mL, 0.25 mmol) diluted in CH2Cl2 (5 mL) was added dropwise. The reaction was allowed to warm to room temperature and left stirring for 12 hours. The reaction proceeded until completion as judged by TLC and LC-MS, was concentrated in vacuo, resuspended in 50:50 H2O—CH3CN, and purified on a C18 column in CH3CN/H2O/0.1% TFA (1-100% gradient) to afford AD68. ESI-MS m/z [M+H]+ found 469.4, calculated 469.2.

reactant | 3-(4-aminophenyl)-1-((R)-tetrahydrofuran-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.25 mmol, 0.075 g | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@H]2COCC2 | C15H16N6O
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.25 mmol, 0.035 mL | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(4-amino-1-((R)-tetrahydrofuran-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)-3-(trifluoromethyl)benzamide | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)[C@H]2COCC2 | C23H19F3N6O2
